US07696213B2
3-(8-Cyclopentyl-2-(ethylamino)-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)-N,N-dimethylpropanamide (Compound 121)
3-(8-cyclopentyl-2-(ethylamino)-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)propanoic acid (94 mg, 0.27 mmole), dimethylamine (1.09 mmole, 0.55 ml of 2.0 M solution in THF), triethylamine (27.6 mg, 0.27 mmole), O-(7-Azabenzotriazole-1-yl)-N,N,N′N′-tetramethyluronium hexafluorophosphate (HATU, 104 mg, 0.27 mmole) and DMF (3.0 ml) were added to a reaction vial equipped with a stir bar. The reaction mixture was heated at 50° C. for 26 h. The reaction was quenched with water (2 ml), and the volatiles were removed under reduced pressure to a residue. Ethyl acetate (70 ml) and water (30 ml) were added and shaken well. The organic layer was separated, washed with water (2×30 ml), brine (30 ml), and dried over sodium sulfate. The solvent was removed under reduced pressure to a residue, which was purified using silica (100% petroleum ether to 100% ethyl acetate). The fractions were combined, and the volatiles were removed to a colorless oil as the title compound (55 mg, 54% yield).

reactant | 3-(8-cyclopentyl-2-(ethylamino)-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)propanoic acid | 0.27 mmole, 94 mg | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2C)NCC)CCC(=O)O)=O | C18H24N4O3
reactant | dimethylamine | 1.09 mmole, 2.0 M, 0.55 ml | CNC | C2H7N
reactant | triethylamine | 0.27 mmole, 27.6 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | 3-(8-Cyclopentyl-2-(ethylamino)-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)-N,N-dimethylpropanamide | 55 mg, 54% yield | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2C)NCC)CCC(=O)N(C)C)=O | C20H29N5O2
